US06492383B1
N-{4-[7-(1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzyl}-N′,N′-dimethyl-hexane-1,6-diamine
The title compound was prepared from N,N-dimethyl-hexane-1,6-diamine and 4-[7-(1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde by a procedure analogous to example 17. LC-MS: 498 (MH+); HPLC RT: 3.93 minutes.

reactant | N,N-dimethyl-hexane-1,6-diamine | CN(CCCCCCN)C | C8H20N2
reactant | 4-[7-(1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=O)C=C2 | C22H15N3OS
product | N-{4-[7-(1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzyl}-N′,N′-dimethyl-hexane-1,6-diamine | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(CNCCCCCCN(C)C)C=C2 | C30H35N5S
